US20010006969A1
4-t-Butylamino-2-chloro-7-ethylthieno[3,2-d]pyrimidine
In 5 ml of DMF, 330 mg (1.4 mol) of 2,4-dichloro-7-etylthieno[ 3,2-d]pyrimidine was dissolved, and then 228 mg (3.1 mmol) of t-butylamine was added dropwise thereto under ice cooling over 5 minutes. The reaction solution was stirred at 0°C. for one hour and then allowed to resume room temperature, followed by stirring for further 1 hour. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane={fraction (1/10)}) to give 312 mg (yield: 81.7%) of the title compound.

reactant | 2,4-dichloro-7-etylthieno[ 3,2-d]pyrimidine | 1.4 mol, 330 mg | ClC=1N=C(C2=C(N1)C(=CS2)CC)Cl | C8H6Cl2N2S
reactant | t-butylamine | 3.1 mmol, 228 mg | C(C)(C)(C)N | C4H11N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-t-Butylamino-2-chloro-7-ethylthieno[3,2-d]pyrimidine | 312 mg, yield: 81.7% | C(C)(C)(C)NC=1C2=C(N=C(N1)Cl)C(=CS2)CC | C12H16ClN3S
